### PR TITLE
[Merged by Bors] - feat: The computable functions are closed under if-then-else definitions with computable predicates

### PR DESCRIPTION
**Pull request by bjoernkjoshanssen**
As discussed at https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/by.20decide.20implies.20Computable/near/471964724

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Halting.lean [hunk 1]
```diff
@@ -173,6 +173,18 @@ protected theorem not {p : α → Prop} (hp : ComputablePred p) : ComputablePred
...
+theorem ite {f₁ f₂ : ℕ → ℕ} (hf₁ : Computable f₁) (hf₂ : Computable f₂)
+    {c : ℕ → Prop} [∀ k, Decidable (c k)] (hc : ComputablePred c) :
+    Computable fun k ↦ if c k then f₁ k else f₂ k :=
+  Computable.of_eq (by
+    show Computable fun k ↦ bif c k then f₁ k else f₂ k
+    exact Computable.cond (by
+      obtain ⟨h₀,h₁⟩ := hc
+      exact (Eq.to_iff <|congrArg _ (funext fun _ => decide_eq_decide.mpr <| Eq.to_iff rfl)).1 h₁)
+      hf₁ hf₂)
+    fun _ => by simp
```
Comment (eric-wieser) [inline Mathlib/Computability/Halting.lean:186]: Here's a shorter proof:
```suggestion
    Computable fun k ↦ if c k then f₁ k else f₂ k := by
  simp_rw [← Bool.cond_decide]
  obtain ⟨inst, hc⟩ := hc
  convert Computable.cond hc hf₁ hf₂
```

Comment (bjoernkjoshanssen) [reply Mathlib/Computability/Halting.lean:186]: Nice! It looks like `convert` succeeded where I had expected `exact` to succeed (since there was no visible difference).

File: Mathlib/Computability/Halting.lean [hunk 2]
```diff
@@ -173,6 +173,14 @@ protected theorem not {p : α → Prop} (hp : ComputablePred p) : ComputablePred
         simp only [Bool.not_eq_true]
         cases f n <;> rfl⟩
 
+/-- The computable functions are closed under if-then-else definitions. -/
+theorem ite {f₁ f₂ : ℕ → ℕ} (hf₁ : Computable f₁) (hf₂ : Computable f₂)
+    {c : ℕ → Prop} [∀ k, Decidable (c k)] (hc : ComputablePred c) :
```
Comment (eric-wieser) [inline Mathlib/Computability/Halting.lean:178]:
```suggestion
    {c : ℕ → Prop} [DecidablePred c] (hc : ComputablePred c) :
```
is a shorthand for this

**Review by eric-wieser — APPROVED** [review]
bors d+

Maybe give Mario a day or two to reply just in case before merging

**Comment by digama0** [comment]
bors d+

**Comment by eric-wieser** [comment]
Looks like you forgot my suggestion above, so I've committed it. Feel free to re-send to bors with that in place.

**Comment by bjoernkjoshanssen** [comment]
> Looks like you forgot my suggestion above, so I've committed it. Feel free to re-send to bors with that in place.

Yes, thanks for adding that. I'm not sure if "re-send to bors" means something different from "push a new version", so I just made a minor improvement to the description and pushed that.

**Comment by eric-wieser** [comment]
I meant write this again, which I will do for you:

bors merge


Pushing anything cancels the last request, but you can always do so again.
